US08110575B2
5-(6-(5,6,7,8-tetrahydro-4H-thiazolo[5,4-d]azepine-6-carbonyl)pyrimidin-4-ylamino)-1,3-di-hydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
86 mg (0.21 mmol) 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride, 37 mg (0.24 mmol) 5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine, 0.13 mL (0.72 mmol) DIPEA and 77 mg (0.24 mmol) TBTU in 1.0 mL DMF were stirred overnight at RT. The purification was carried out by preparative HPLC-MS. The product-containing fractions were combined and lyophilised.

reactant | 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride | 0.21 mmol, 86 mg | Cl.O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)O
reactant | 5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine | 0.24 mmol, 37 mg | S1C=NC=2CCNCCC21 | C7H10N2S
reactant | DIPEA | 0.72 mmol, 0.13 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.24 mmol, 77 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 5-(6-(5,6,7,8-tetrahydro-4H-thiazolo[5,4-d]azepine-6-carbonyl)pyrimidin-4-ylamino)-1,3-di-hydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | S1C=NC2=C1CCN(CC2)C(=O)C2=CC(=NC=N2)NC=2C=C1CC3(C(NC4=NC=CC=C43)=O)CC1=CC2 | C27H23N7O2S
